US07981896B2
8-Methoxy-3-methyl-1-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]-4,5-dihydro-1H-benzo[g]indazole.
4-(8-Methoxy-3-methyl-4,5-dihydrobenzo[g]indazol-1-yl)-phenol (0.1 mmol) was dissolved in N,N-dimethylformamide (1 mL), and -(3-chloropropyl)pyrrolidine (15 mg, 0.1 mmol), sodium hydride (4 mg, 60% dispersion in mineral oil, 0.1 mmol) and sodium iodide (15 mg, 0.1 mmol) were added. The reaction was heated at 70° C. for 3 hours. The solution was diluted with saturated sodium bicarbonate and extracted with ethyl acetate. The extracts were dried over MgSO4 and concentrated. SiO2 chromatography with 2% triethylamine/10% methanol/ethyl acetate gave 8.6 mg of the desired product. LC-MS (C26H31N3O2 calculated 417) m/z 418 (M+H). 1H NMR (300 MHz, CDCl3) δ 7.41-7.36 (m, 2H), 7.17 (d, J=8.7 Hz, 1H), 6.99-6.94 (m, 2H), 6.67 (dd, J=8.7 Hz, 2.4 Hz, 1H), 6.40 (d, J=2.4 Hz, 1H), 4.07 (t, J=6.3 Hz, 2H), 3.52 (s, 3H), 2.91 (m, 2H), 2.72-2.58 (m, 8H), 2.30 (s, 3H), 2.12-2.04 (m, 2H), 1.86-1.81 (m, 4H).

reactant | 4-(8-Methoxy-3-methyl-4,5-dihydrobenzo[g]indazol-1-yl)-phenol | 0.1 mmol | COC1=CC2=C(CCC=3C(=NN(C23)C2=CC=C(C=C2)O)C)C=C1 | C19H18N2O2
reactant | (3-chloropropyl)pyrrolidine | 0.1 mmol, 15 mg | ClCCCN1CCCC1 | C7H14ClN
reactant | sodium hydride | 0.1 mmol, 4 mg | [H-].[Na+]
reactant | sodium iodide | 0.1 mmol, 15 mg | [I-].[Na+]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 8-Methoxy-3-methyl-1-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]-4,5-dihydro-1H-benzo[g]indazole | 8.6 mg | COC1=CC2=C(CCC=3C(=NN(C23)C2=CC=C(C=C2)OCCCN2CCCC2)C)C=C1 | C26H31N3O2
